Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
___ Complaint:
respiratory failure, alcohol intoxication
 
Major Surgical or Invasive Procedure:
Intubation ___
Extubation ___

 
History of Present Illness:
___ is a ___ (DOB ___ with reported history of 
HTN who was brought in by EMS after a low-velocity motor vehicle 
accident in which he veered off the road and side-swiped several 
cars. He was found to be unresponsive and snoring at the scene, 
and not responding to painful stimuli. EMS also found a bottle 
of hand sanitizer at the scene, though per report it appeared 
relatively full. No EtOH found at scene. He had a seatbelt on. 
No
evidence of trauma on exam then. 

Per collateral (girlfriend ___ ___, patient 
appeared normal on the phone 1 hour prior. She does not know of 
other substance abuse. 

In the ED, 
- Initial Vitals: HR 80, BP 131/84, RR 21, SaO2 100% intubated

- Exam: GCS 3, pupils 3mm, hypopneic, no overt evidence of 
trauma. Not responding to painful stimuli.

- Labs:  
Whole blood Na 143, K 3.8, Cl 107, TCO2 27, glucose 117, Cr 1.0
Serum BUN 15
Lactate 2.0
Lipase 28
Serum osm 396
Serum EtOH 402, negative for ASA, APAP, TCA

ABG: 7.30/53/198

WBC 6.9, hgb 15.1, plt 200
PTT: 32.0; INR 1.2

- Imaging:  
CT Torso: No acute intrathoracic or intra-abdominal injury. No 
free fluid. No fracture.

CT C-spine: No cervical spine fracture or malalignment. Enteric 
tube coiled in the pharynx/hypopharynx.

CT Head without contrast: No acute intracranial process. Enteric 
tube is partially visualized looped in the nasopharynx.

CXR: Endotracheal tube tip 2.5 cm from the carina.

- Consults:  
Trauma Surgery: MICU admission if lack of traumatic injuries on 
panscan

- Interventions:  
Received 0.5mg naloxone without improvement in respiratory rate
Intubated with 100mg roc, 20mg etomidate
On prop/fent for sedation, also received 100mg ketamine 
initially for agitation immediately post-intubation
Gastric tube initially recoiled, replaced

ROS: Positives as per HPI; otherwise negative.  

 
Past Medical History:
HTN
 
Social History:
___
Family History:
Noncontributory
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
===============================
VS: 98.8F, HR 80, BP 120/85, 100% intubated
GEN: intubated, sedated
EYES: 2-->1.5mm b/l PERRL
HENNT: OGT
CV: RRR
RESP: CTAB anteriorly
GI: S/NT/ND
MSK: no bony deformity
SKIN: no visible rash
NEURO: does not respond to voice

DISCHARGE PHYSICAL EXAM:
=============================
VS: T 98.4F, HR 84, BP 103/70, RR 13, 100% on RA
GEN: intubated, awake and alert --> extubated, AOx3
EYES: 2-->1.5mm b/l PERRL
HENNT: NCAT
CV: RRR
RESP: CTAB anteriorly
GI: S/NT/ND
SKIN: no visible rash
NEURO: responds to voice, following commands
 
Pertinent Results:
ADMISSION LABS
=============================
___ 08:03PM BLOOD WBC-6.9 RBC-5.00 Hgb-15.1 Hct-45.6 MCV-91 
MCH-30.2 MCHC-33.1 RDW-12.7 RDWSD-42.1 Plt ___
___ 08:03PM BLOOD Neuts-47.8 ___ Monos-10.4 Eos-1.0 
Baso-0.3 Im ___ AbsNeut-3.30 AbsLymp-2.78 AbsMono-0.72 
AbsEos-0.07 AbsBaso-0.02
___ 08:03PM BLOOD ___ PTT-32.0 ___
___ 08:03PM BLOOD UreaN-15
___ 08:03PM BLOOD ALT-23 AST-21 AlkPhos-62 TotBili-0.3
___ 08:03PM BLOOD Lipase-28
___ 08:03PM BLOOD Osmolal-396*
___ 08:03PM BLOOD ASA-NEG ___ Acetmnp-NEG 
Tricycl-NEG
___ 10:04PM BLOOD Type-ART Rates-16/ Tidal V-500 PEEP-5 
FiO2-50 pO2-198* pCO2-53* pH-7.30* calTCO2-27 Base XS-0 
As/Ctrl-ASSIST/CON Intubat-INTUBATED
___ 08:08PM BLOOD Glucose-117* Lactate-2.0 Creat-1.0 Na-143 
K-3.8 Cl-107 calHCO3-27

RELEVANT IMAGING
=============================
___ CXR AP
Endotracheal tube tip 2.5 cm from the carina.

___ CT C-SPINE WITHOUT CONTRAST
No cervical spine fracture or malalignment. 
Enteric tube coiled in the pharynx/hypopharynx. 

___ CT HEAD WITHOUT CONTRAST
No acute intracranial process.Enteric tube is partially 
visualized looped in the nasopharynx. 

___ CT TORSO WITH CONTRAST
No acute intrathoracic or intra-abdominal injury.  No free 
fluid. No fracture.

___ CXR AP
No acute cardiopulmonary process. Orogastric tube tip projects 
over the mid gastric body. 

DISCHARGE LABS
==================================
___ 08:52AM BLOOD ___ pO2-80* pCO2-36 pH-7.42 
calTCO2-24 Base XS-0
___ 08:52AM BLOOD Lactate-3.8*
 
Brief Hospital Course:
PATIENT SUMMARY
================
___ admitted with hypercarbic respiratory failure secondary to 
alcohol intoxication. 

ACUTE ISSUES 
=============
#Hypercarbic respiratory failure
Initially intubated in the ED for airway protection given poor 
mental status and hypopnea secondary to alcohol intoxication. 
ABG after intubation with respiratory acidosis. Weaned off 
sedation and extubated ___.

#Alcohol intoxication
Serum ethanol ___ on admission. Serum osm 396, which based on 
initial labs is without e/o additional osm. LFTs normal. Urine 
tox negative for other ingestion. Received thiamine, folic acid, 
MVI.

#Distributive shock
Likely related to sedatives, given 2L LR bolus and BPs improved.

CHRONIC ISSUES
===============
#HTN
Held home antihypertensives, reportedly on lisinopril and 
metoprolol, uncertain of his home dose.

======================================================== 
# Code Status: full (presumed)
# Emergency Contact: ___ (mother): ___

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation. Patient was unsure of his home medication 
dosing.
1. Lisinopril 10 mg PO DAILY 
2. Metoprolol Succinate XL 25 mg PO DAILY 

 
Discharge Medications:
1.  Lisinopril 10 mg PO DAILY  
2.  Metoprolol Succinate XL 25 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
-Hypercarbic respiratory failure
-Alcohol intoxication
-Distributive shock

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at ___.

WHY WAS I ADMITTED TO THE HOSPITAL?
-You were admitted because you were found unresponsive after you 
had a car accident.

WHAT HAPPENED WHILE I WAS IN THE HOSPITAL?
-You were intubated in the ED because you were unresponsive, and 
then brought to the ICU. 
-You were given IV fluids overnight because your blood pressures 
were a little low, probably from the sedation from the 
intubation.
-You were extubated and were feeling much better, so you were 
discharged.

WHAT SHOULD I DO WHEN I LEAVE THE HOSPITAL?
-Continue to take your medications as prescribed.
-Please make a follow up appointment with your primary care 
doctor within the next few days.

We wish you all the best,

Your ___ Care Team

 
Followup Instructions:
___